US05658933
a) 4-Chlorobenzyl 3-(4-chlorobenzyloxy)pyridine-2-carboxylate
8.4 g (60 mmol) of 3-hydroxypyridine-2-carboxylic acid were alkylated (3 h, 110° C.) with 5.2 g (approximately 130 mmol, 60%) of sodium hydride and 19.3 g (120 mmol) of 4-chlorobenzyl chloride in N,N-dlmethylacetamide in analogy with Example 30a). After concentration in vacuo and extraction with Na bicarbonate solution, the residue was purified on silica gel using heptane/ethyl acetate (1:1), and 14.8 g of the product were crystallized from appropriate fractions using diisopropyl ether, m.p. 92°-94° C.

reactant | 3-hydroxypyridine-2-carboxylic acid | 60 mmol, 8.4 g | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | sodium hydride | approximately 130 mmol, 5.2 g | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 120 mmol, 19.3 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 4-Chlorobenzyl 3-(4-chlorobenzyloxy)pyridine-2-carboxylate | ClC1=CC=C(COC=2C(=NC=CC2)C(=O)OCC2=CC=C(C=C2)Cl)C=C1 | C20H15Cl2NO3
